US07691881B2
8(1) 6-Methoxy-1-oxaspiro[2,5]octane
To a stirred suspension of sodium hydride (60% in mineral oil, 1.20 g, 30.0 mmol) in dimethylsulfoxide (19 mL) was added trimethylsulfoxonium iodide (6.89 g, 31.3 mmol) at room temperature, and the mixture was stirred at room temperature for 30 min. To this mixture was added a solution of 4-methoxycyclohexanone (3.53 g, 10.0 mmol, prepared according to Shvily, Ronit et al., J. Chem. Soc. Perkin Trans. 2, 1997, 6, 1221) in dimethylsulfoxide (95 mL) dropwise at room temperature, and the mixture was stirred at room temperature for 20 h. Then the mixture was diluted with water (1.0 L), and extracted with diethyl ether (200 mL×6). The combined organic layers were dried over magnesium sulfate, and concentrated in vacuo. The residue was chromatographed on a column of silica gel eluting n-hexane/ethyl acetate (v/v=15/1˜10/1) to give 338 mg (9%, cis) and 204 mg (5%, trans) of the title compound as colorless oil respectively.

reactant | sodium hydride | 30.0 mmol, 1.20 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 31.3 mmol, 6.89 g | [I-].C[S+](=O)(C)C
reactant | 4-methoxycyclohexanone | COC1CCC(CC1)=O | C7H12O2
reactant | Ronit | CCN(C1CCCCC1)C(=O)SCC | C11H21NOS
solvent | dimethylsulfoxide | 19 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 95 mL | CS(=O)C | C2H6OS
solvent | water | 1.0 L | O | H2O
product | 6-Methoxy-1-oxaspiro[2,5]octane | COC1CCC2(CO2)CC1 | C8H14O2
